US07851071B2
Pouring 60 milliliter of acetic acid over 5.0 g (33 mmol) of N-methyl-2-nitroaniline and 5.9 g (33 mmol) of N-bromosuccinimide, the resultant solution was refluxed with heating for 7 hours. After completion of the reaction, the reacted solution was poured into 500 milliliter of water, and precipitated solids were separated with filtration. Dissolving the resultant solids into ethyl acetate, the resultant solution was dried with the use of magnesium sulfate. After filtration, the solvent was removed by distillation under reduced pressure, and after drying the solids under reduced pressure at room temperature, 7.1 g of 4-bromo-N-methyl-2-nitroaniline as orange solids were obtained (yield: 93%).

reactant | acetic acid | 60 milliliter | C(C)(=O)O | C2H4O2
reactant | N-methyl-2-nitroaniline | 33 mmol, 5.0 g | CNC1=C(C=CC=C1)[N+](=O)[O-] | C7H8N2O2
reactant | N-bromosuccinimide | 33 mmol, 5.9 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | water | 500 milliliter | O | H2O
product | 4-bromo-N-methyl-2-nitroaniline | 7.1 g, yield: 93% | BrC1=CC(=C(NC)C=C1)[N+](=O)[O-] | C7H7BrN2O2
